US08048887B2
2-(4-Fluorophenyl)-6-(N-(2-hydroxyethyl)methylsulfonamido)-N-methyl-5-(3-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide
1-(Pyridin-2-yl)cyclopropanamine dihydrochloride (24 mg, 0.114 mmol) was added to a stirring solution of HATU (54 mg, 0.142 mmol), DIEA (50 μL, 0.285 mmol), and 3-(2-(4-fluorophenyl)-6-(N-(2-hydroxyethyl)methylsulfonamido)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid (50 mg, 0.095 mmol) in DMF (950 μL) at rt. It was allowed to stir for 1 hour. The mixture was diluted with EtOAc and washed with sat NaHCO3, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated and was purified by preparative reverse phase HPLC on a C18 column using a suitably buffered H2O/CH3CN gradient, and concentrated to give the titled compound (20 mg, 32%). 1H NMR (500 MHz, DMSO-d6) δ ppm 9.20 (1H, s), 8.49-8.57 (1H, m), 8.45 (1H, d, J=3.97 Hz), 7.97-8.05 (3H, m), 7.96 (1H, s), 7.94 (1H, d, J=7.93 Hz), 7.80 (1H, d, J=7.93 Hz), 7.64-7.69 (1H, m), 7.63 (1H, s), 7.56 (1H, t, J=7.63 Hz), 7.37-7.47 (3H, m), 7.15 (1H, dd, J=6.41, 4.88 Hz), 4.91 (1H, br. s.), 3.51-3.60 (1H, m), 3.22 (3H, s), 2.89-2.98 (3H, m), 2.81 (3H, d), 1.50-1.60 (2H, m), 1.23-1.33 (2H, m). LC-MS retention time: 1.37 min; m/z (MH+): 643. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 mm, Rt=7.17 min, purity=98%; Column: Waters XBridge phenyl column 4.6×150 mm, 3.5 mm, Rt=7.89 min, purity=99%.

reactant | 1-(Pyridin-2-yl)cyclopropanamine dihydrochloride | 0.114 mmol, 24 mg | Cl.Cl.N1=C(C=CC=C1)C1(CC1)N
reactant | HATU | 0.142 mmol, 54 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.285 mmol, 50 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(2-(4-fluorophenyl)-6-(N-(2-hydroxyethyl)methylsulfonamido)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid | 0.095 mmol, 50 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C(=C2)N(S(=O)(=O)C)CCO)C=2C=C(C(=O)O)C=CC2 | C26H23FN2O7S
solvent | DMF | 950 μL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-Fluorophenyl)-6-(N-(2-hydroxyethyl)methylsulfonamido)-N-methyl-5-(3-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide | 20 mg, 32% | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C(=C2)N(S(=O)(=O)C)CCO)C2=CC(=CC=C2)C(NC2(CC2)C2=NC=CC=C2)=O | C34H31FN4O6S
